US09403845B2
Preparation of 4-methylene-6-[1-(3-pyridyl)pyrazol-4-yl]-2,3-dihydropyrano[3,2-b]pyridine
137 mg (0.78 mmol) of palladium chloride, 948 mg (3.62 mmol) of triphenylphosphine, 356 mg (25.8 mmol) of K2CO3 and 3.54 g (11.89 mmol) of n-Bu4NCl in 30 ml of DMF were heated under 105° C. for 10 min under N2. 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) pyrazol-1-yl]pyridine (3.5 g, 12.92 mmol) and 6-bromo-4-methylene-2,3-dihydropyrano[3,2-b]pyridine (3.2 g, 14.16 mmol) in DMF (20 ml) were added to the above solution and stirred overnight. EtOAc and water were added to the reaction mixture. The aqueous phase was extracted with EtOAc for 3 times, the combined organic phase was washed with water for 3 times, dried over Na2SO4, and concentrated in vacuum. The crude product was purified by silica gel chromatography (petroleum/EtOAc=1/1) to get the title compound as red solid.

reactant | triphenylphosphine | 3.62 mmol, 948 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K2CO3 | 25.8 mmol, 356 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) pyrazol-1-yl]pyridine | 12.92 mmol, 3.5 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C=1C=NC=CC1)C | C14H18BN3O2
reactant | 6-bromo-4-methylene-2,3-dihydropyrano[3,2-b]pyridine | 14.16 mmol, 3.2 g | BrC1=CC=C2C(=N1)C(CCO2)=C | C9H8BrNO
catalyst | n-Bu4NCl | 11.89 mmol, 3.54 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Cl-]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | palladium chloride | 0.78 mmol, 137 mg | [Pd](Cl)Cl
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-methylene-6-[1-(3-pyridyl)pyrazol-4-yl]-2,3-dihydropyrano[3,2-b]pyridine | C=C1CCOC=2C1=NC(=CC2)C=2C=NN(C2)C=2C=NC=CC2 | C17H14N4O
